US06147216
Mix methallyl acetate (228 g, 2.0 mol) and benzene (1 L) and cool to 5° C. Add aluminum chloride (266 g, 2.0 mol) over approximately 30 minutes while maintaining the temperature below 10° C. Add, in portions of 50 mL to 80 mL each, to a 5° C. mixture of aluminum chloride (15 g) in benzene (600 mL). After addition is complete, stir at 0-3° C. for 1/2 hour, pour onto ice (2 kg) and separate the organic layer. Wash with water (2×300 mL), dry (Na2SO4), and distill to give neophyl acetate.

reactant | methallyl acetate | 2.0 mol, 228 g | C(C)(=O)OCC(C)=C | C6H10O2
reactant | aluminum chloride | 2.0 mol, 266 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | aluminum chloride | 15 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene | 600 mL | C1=CC=CC=C1 | C6H6
reactant | benzene | 1 L | C1=CC=CC=C1 | C6H6
product | neophyl acetate | C(C)(=O)OCC(C)(C)C1=CC=CC=C1 | C12H16O2
